US05135953
Into a homogeneous solution of 1-(3,5-dichloro-4-hydroxyphenyl)-3-(2,6-difluorobenzoyl)urea (3.13 grams, 8.66 mmol) in dimethylformamide (25 milliliters) was added triethylamine (1.75 grams, 17.3 mmol), and the resulting mixture was stirred for 5 minutes. Tertiary-butyldimethylsilyl chloride (3.92 grams, 26.0 mmol) was then added, and a thick precipitate formed immediately. This heterogeneous mixture was then diluted with ethyl acetate (200 milliliters), washed with saturated sodium bicarbonate (twice with 150 milliliters) and then washed with a brine solution (150 milliliters). The organic layer was dried over sodium sulfate, filtered, and concentrated under reduced pressure to give a brown solid. The solid was washed with cold ether and vacuum dried to afford 1-(4-tert-butyldimethylsiloxy-3,5-dichlorophenyl)-3-(2,6-difluorobenzoyl)urea (2.71 grams, 5.70 mmol) having a melting point of 184° C.-186° C. Elemental analysis of the product indicated the following:

reactant | 1-(3,5-dichloro-4-hydroxyphenyl)-3-(2,6-difluorobenzoyl)urea | 8.66 mmol, 3.13 grams | ClC=1C=C(C=C(C1O)Cl)NC(=O)NC(C1=C(C=CC=C1F)F)=O | C14H8Cl2F2N2O3
reactant | triethylamine | 17.3 mmol, 1.75 grams | C(C)N(CC)CC | C6H15N
reactant | Tertiary-butyldimethylsilyl chloride | 26.0 mmol, 3.92 grams | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | dimethylformamide | 25 milliliters | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 200 milliliters | C(C)(=O)OCC | C4H8O2
product | 1-(4-tert-butyldimethylsiloxy-3,5-dichlorophenyl)-3-(2,6-difluorobenzoyl)urea | 5.70 mmol, 2.71 grams | O([Si](C)(C)C(C)(C)C)C1=C(C=C(C=C1Cl)NC(=O)NC(C1=C(C=CC=C1F)F)=O)Cl | C20H22Cl2F2N2O3Si
